US07271266B2
Step C: 2-(Benzyloxy)-6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyridine-3-nitrile.
In the following Examples 20-24, the procedure described in Example 19, Step C was repeated but substituting the appropriately substituted benzyl halide for benzyl bromide in the reaction with 6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-2-oxo-1,2-dihydropyridine-3-nitrile to afford the following compounds:

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-2-oxo-1,2-dihydropyridine-3-nitrile | ClC1=C(C=CC(=C1)Cl)C1=C(C=C(C(N1)=O)C#N)C1=CC=C(C=C1)Cl | C18H9Cl3N2O
product | 2-(Benzyloxy)-6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyridine-3-nitrile | C(C1=CC=CC=C1)OC1=NC(=C(C=C1C#N)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C25H15Cl3N2O
